US07208495B2
3-(4-methoxyphenyl) glutaric anhydride
Using ethyl 3-(4-methoxyphenyl)-2-propenoate, the title compound was synthesized in the same manner as in Reference Example 5. Yield 38%. mp. 144–149° C. (ethyl acetate-hexane).

reactant | ethyl 3-(4-methoxyphenyl)-2-propenoate | COC1=CC=C(C=C1)C=CC(=O)OCC | C12H14O3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-(4-methoxyphenyl) glutaric anhydride | Yield 38% | COC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C12H12O4
